US07538123B2
(1) Synthesis of methyl 1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxylate
44.3 g of methyl 3-amino-4-(2,2-dimethoxyethyl)benzoate synthesized according to the publication (Tetrahedron Letters, Vol. 37, No. 34, pp. 6045-6048) and 64.9 g of benzyl 4-oxo-1-piperidinecarboxylate were dissolved in 485 ml of acetic acid, followed by stirring at room temperature. Approximately 20 minutes later, 58.9 g of sodium triacetoxyborohydride was added to the reaction solution. Then, the reaction solution was further stirred for 2 hours. Thereafter, 485 ml of water was added to the reaction solution, and the obtained mixture was heated to a temperature between 100° C. and 115° C. Approximately 3 hours later, the reaction solution was cooled, and then concentrated under a reduced pressure. Thereafter, water and ethyl acetate were added thereto, so as to separate an organic layer. The obtained organic layer was washed with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure, and the residue was then purified by NH silica gel column chromatography (hexane/ethyl acetate). The obtained solid was suspended in a mixed solvent consisting of hexane and t-butylmethyl ether, followed by filtration, so as to obtain 64.6 g of the subject compound.

reactant | methyl 3-amino-4-(2,2-dimethoxyethyl)benzoate | 44.3 g | NC=1C=C(C(=O)OC)C=CC1CC(OC)OC | C12H17NO4
reactant | benzyl 4-oxo-1-piperidinecarboxylate | 64.9 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | sodium triacetoxyborohydride | 58.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | 485 ml | O | H2O
solvent | acetic acid | 485 ml | C(C)(=O)O | C2H4O2
product | methyl 1-(1-benzyloxycarbonylpiperidin-4-yl)-1H-indole-6-carboxylate | 64.6 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)OC | C23H24N2O4
